US07560597B2
2′,4′-Dichloro-biphenyl-4-carbonyl chloride
2′,4′-Dichloro-biphenyl-4-carboxylic acid (2 g) was suspended in toluene (30 mL) and thionyl chloride (5 mL) added. The mixture was heated to reflux for 4 hours and then evaporated to dryness and the procedure repeated. Evaporation gave the title compound as a white solid.

reactant | 2′,4′-Dichloro-biphenyl-4-carboxylic acid | 2 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(=O)O | C13H8Cl2O2
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2′,4′-Dichloro-biphenyl-4-carbonyl chloride | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(=O)Cl | C13H7Cl3O
